### PR TITLE
Ereal 20220711

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

A few lemmas about ~ereal.v~ that I felt I needed in other  PRs.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~-  [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -1588,6 +1592,10 @@ move: x y a b => [x| |] [y| |] [a| |] [b| |] _ _ //=; rewrite ?(ltey, ltNye)//.
 by rewrite !lte_fin; exact: ltr_le_add.
 Qed.
 
+Lemma lee_lt_add a b x y : a \is a fin_num -> b \is a fin_num ->
+  a <= x -> b < y -> a + b < x + y.
```
Comment (proux01) [inline theories/ereal.v:1596]: Note that this doesn't really need `b` finite as `lte_le_add` doesn't need `a` finite:
```Coq
Lemma lte_le_add a b x y : b \is a fin_num -> a < x -> b <= y -> a + b < x + y.
Proof.
move: x y a b => [x||] [y||] [a||] [b||] // _; rewrite ?(ltey, ltNye) //.
rewrite !lte_fin; exact: ltr_le_add.
Qed.
```

File: theories/ereal.v [hunk 2]
```diff
@@ -2024,6 +2032,9 @@ move=> [y| |] [z| |]//.
   + by move=> _; rewrite mulNyy leNye.
 Qed.
 
+Lemma lee_wpmul2l x : 0 <= x -> {homo *%E x : y z / y <= z}.
```
Comment (proux01) [inline theories/ereal.v:2035]: I wonder whether `R` couldn't be just a `numDomainType` here (rather than a `realDomainType`)

File: theories/ereal.v [hunk 3]
```diff
@@ -2250,6 +2261,64 @@ move: x => [x| |] ih.
 - by rewrite mulrNy gtr0_sg// mul1e enatmul_ninfty.
 Qed.
 
+Lemma lte_pmul x1 y1 x2 y2 :
```
Comment (proux01) [inline theories/ereal.v:2264]: same about {num/real}DomainType

File: theories/ereal.v [hunk 4]
```diff
@@ -2250,6 +2261,64 @@ move: x => [x| |] ih.
...
+    rewrite !(lte_fin,lee_fin).
+- by move=> *; rewrite ltr_pmul.
+- move=> x10 x20 xy1 xy2.
+  by rewrite mulry gtr0_sg ?mul1e -?EFinM ?ltey// (le_lt_trans _ xy1).
+- move=> x10 x20 xy1 xy2.
+  by rewrite mulyr gtr0_sg ?mul1e -?EFinM ?ltey// (le_lt_trans _ xy2).
+- by move=> *; rewrite mulyy -EFinM ltey.
+Qed.
+
+Lemma lee_pmul x1 y1 x2 y2 : 0 <= x1 -> 0 <= x2 -> x1 <= y1 -> x2 <= y2 ->
```
Comment (proux01) [inline theories/ereal.v:2277]: same? (and for other lemmas below)

**Review by proux01 — APPROVED** [review]
I have a few minor comments, will merge once adressed (or we agree to ignore them)

File: theories/ereal.v [hunk 5]
```diff
@@ -311,20 +311,21 @@ Notation "x <= y < z"  := ((x <= y) && (y < z)) : ereal_scope.
...
 
-Lemma lee_pinfty_eq (R : numDomainType) (x : \bar R) : (+oo <= x) = (x == +oo).
-Proof. by case: x. Qed.
+Lemma lee01 : 0 <= (1 : \bar R). Proof. by rewrite lee_fin. Qed.
 
-Section ERealOrder_numDomainType.
-Context {R : numDomainType}.
+Lemma lte01 : 0 < (1 : \bar R). Proof. by rewrite lte_fin. Qed.
+
+Lemma lee_ninfty_eq x : (x <= -oo) = (x == -oo). Proof. by case: x. Qed.
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply theories/ereal.v:326]: I tried with `leeNy_eq`.

File: theories/ereal.v [hunk 6]
```diff
@@ -311,20 +311,21 @@ Notation "x <= y < z"  := ((x <= y) && (y < z)) : ereal_scope.
...
+
+Lemma lee_pinfty_eq x : (+oo <= x) = (x == +oo). Proof. by case: x. Qed.
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply theories/ereal.v:328]: I tried with leye_eq

**Comment by proux01** [comment]
@affeldt-aist I added the corresponding dual addition lemmas, I guess we can postpone the real -> num Domain thing so I'll merge once CI is green (enough)

**Comment by affeldt-aist** [comment]
> @affeldt-aist I added the corresponding dual addition lemmas, I guess we can postpone the real -> num Domain thing so I'll merge once CI is green (enough)

I agree. Maybe we can issue not to forget.
